2162-10-16 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2162-10-15**] 09:30 AM
 BLOOD CULTURED - At [**2162-10-15**] 11:44 AM
 LUMBAR PUNCTURE - At [**2162-10-15**] 08:09 PM
   - Given MS and neck rigidity, LP perfomed: cell counts reassuring, cx
   pending, gram stain neg
   - CTA r/o PE ordered (blood pleural effusion, hx DVT), however could
   not get b/c problem with Midline and unable to get other PIVs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-10-15**] 11:53 AM
   Gentamicin - [**2162-10-15**] 12:58 PM
   Ceftazidime - [**2162-10-15**] 07:34 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-10-16**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-10-16**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.4
C (95.8
   HR: 77 (74 - 93) bpm
   BP: 133/17(39) {79/17(39) - 158/85(89)} mmHg
   RR: 18 (11 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                    904 mL
                                                                    564 mL
   PO:
             TF:
                                                                    253 mL
                                                                    236 mL
   IVF:
                                                                    521 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                     80 mL
                                                                    270 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    824 mL
                                                                    294 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   278
   9.2
   253
   2.9
   32
   3.5
   25
   101
   141
   29.1
   19
        [image002.jpg]
   Other labs: Ca++:9.6, Mg++:1.9, PO4:1.9
   Fluid analysis / Other labs:
   Csf: Protein 24, glucose 143
   wbc 2, rbc6
   poly 2, lymp 94, monos 4
   [**10-15**] pH 7.48/42/102
   Assessment and Plan
   73 y/o M with history of ESRD, COPD, CAD, [**Hospital **] transferred from an
   outside hospital with a loculated hemopnuemothorax developing worsening
   hypoxia and somnolence.
   Somnolence: Most common etiology is the infection that has not been
   adequately treated, given he was not on the best antibiotic for it.
   patient got several doses of oxycodone, but the last one was around
   [**10-12**]. a head CT was negative for acute changes. He does have a history
   of a prior CVA and it is possible his deficets are returning in the
   setting of illness. For now we can treat the infection and monitor
   electroltes. He was dialyzed yesterday.
   - treat infection
   - monitor electrolytes
   - LP negative, suspcious for meningitis given neck posture, f/u
   cultures
   Pneumonia: Pseudomonas from BAL. will cover for pseudomonas. Got
   vancomycin this AM.
   - Ceftazadime for coverage of pseudomonas (day 1: [**10-15**]) day [**2-18**].
   - repeat blood cultures
   - f/u cultures.
   - f/u outside hospital for culture data.
   Hydropneumothorax: Left pneumothorax appears mostly resolved, All 3
   tubes to water suction. Intermittent tPA. Reason for bloody effusion is
   unclear. [**Name2 (NI) 60**] be traumatic vs malignant vs infectious vs Tb. Reason for
   loculation is is unclear. .
   - [**Name2 (NI) 707**]/Thoracics are following and managing chest tubes
   - CTA to r/o PE in setting of bloody effusions
   - will try to get a peripheral for CTA, if delayed [**First Name8 (NamePattern2) 178**]  [**Last Name (un) **] LENIS
   - cytology: negative for malignant cells x2 (once here and once at OSH)
   - repeat cytology
   - repeat pleural studies from b/l pleural fluid.
   CAD: CABG in [**1-19**]
   - continue statin, ASA, unclear why not on beta blocker
   - will look into old notes, if cant find reason, will start low dose
   beta blocker
   Hypertension: stable
   - amlodipine 5mg
   ESRD: [**First Name8 (NamePattern2) **] [**Last Name (un) 1762**] sat dialysis. anemia secondary to this.
   - dialysis team is following.
   Diabetes: on insulin slding scale
   access: midline and left sided AV fistula for HD
   FEN: tube feeds.
   PPx: heparin sc, bowel reg
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2162-10-16**] 01:00 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2162-10-15**] 09:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:

2162-10-17 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2162-10-16**] 01:00 PM
   - Pressure appeared to drop during dialysis, but Stat a line placed and
   pressures were fine.
   - LENIs negative
   - CTA: prelim negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-10-15**] 11:53 AM
   Gentamicin - [**2162-10-15**] 12:58 PM
   Ceftazidime - [**2162-10-16**] 02:34 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-10-16**] 06:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-10-17**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.4
   HR: 81 (75 - 100) bpm
   BP: 125/46(76) {90/32(50) - 148/53(277)} mmHg
   RR: 20 (9 - 45) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,327 mL
                                                                    253 mL
   PO:
             TF:
                                                                    557 mL
                                                                    178 mL
   IVF:
                                                                    540 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    395 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    932 mL
                                                                    253 mL
   Respiratory support
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   281 K/uL
   9.1 g/dL
   189 mg/dL
   2.7 mg/dL
   25 mEq/L
   3.5 mEq/L
   24 mg/dL
   108 mEq/L
   142 mEq/L
   28.4 %
   13.4 K/uL
        [image002.jpg]
                             [**2162-10-16**]  05:07 AM
                             [**2162-10-17**]  04:20 AM
   WBC
   16.4
   13.4
   Hct
   29.9
   28.4
   Plt
   293
   281
   Cr
   4.0
   2.7
   Glucose
   230
   189
   Other labs: Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Microbiology:
   CSF: no organisms
   Assessment and Plan
   73 y/o M with history of ESRD, COPD, CAD, [**Hospital **] transferred from an
   outside hospital with a loculated hemopnuemothorax developing worsening
   hypoxia and somnolence.
   Pneumonia: Pseudomonas from BAL. will cover for pseudomonas. Got
   vancomycin this AM.
   - Ceftazadime for coverage of pseudomonas (day 1: [**10-15**]) day [**3-19**].
   - repeat blood cultures: negative to date
   - f/u cultures.
   Hydropneumothorax: Left pneumothorax appears mostly resolved, All 3
   tubes to water suction. Intermittent tPA. Reason for bloody effusion is
   unclear. [**Name2 (NI) 60**] be traumatic vs malignant vs infectious vs PE Tb. Reason
   for loculation is is unclear given lungs dont appear emphysematous on
   CT
   - IP/Thoracics are following and managing chest tubes, plan to pull
   left pigtail today.
   - will try to get a peripheral for CTA, if delayed [**First Name8 (NamePattern2) 178**]  [**Last Name (un) **] LENIS
   - cytology: negative for malignant cells x2 (once here and once at OSH)
   - repeat cytology
   - repeat pleural studies from b/l pleural fluid.
   - LENIs and CTA NEGATIVE to r/o DVT and PE
   Somnolence: Improved. Most common etiology is the infection that had
   not been adequately treated. a head CT was negative for acute changes.
   He does have a history of a prior CVA and it is possible his deficets
   are returning in the setting of illness. For now we can treat the
   infection and monitor electroltes. He was dialyzed yesterday.
   - treat infection, monitor electrolytes, LP negative, suspcious for
   meningitis given neck posture, f/u cultures
   CAD: CABG in [**1-19**]
   - continue statin, ASA, unclear why not on beta blocker
   - will look into old notes, if cant find reason, will start low dose
   beta blocker
   Hypertension: stable
   - amlodipine 5mg
   ESRD: [**First Name8 (NamePattern2) **] [**Last Name (un) 1762**] sat dialysis. anemia secondary to this. Dialyzed [**10-16**]
   - dialysis team is following.
   Diabetes: on insulin sliding scale
   access: midline and left sided AV fistula for HD
   FEN: tube feeds.
   PPx: heparin sc, bowel reg
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2162-10-16**] 01:00 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2162-10-15**] 09:30 AM
   Arterial Line - [**2162-10-16**] 01:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: To floor